US06284785B1
(RS)-1-Benzenesulfonyl-2- phenyl-pyrrolidine
The title compound, light pink solid, m.p. 116° C. and MS: m/e=287 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-phenyl-pyrrolidine and benzenesulfonyl chloride.

reactant | (RS)-2-phenyl-pyrrolidine | C1(=CC=CC=C1)C1NCCC1 | C10H13N
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | (RS)-1-Benzenesulfonyl-2- phenyl-pyrrolidine | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)C1=CC=CC=C1 | C16H17NO2S
